US05102890
The procedure is as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 4-(N-methylacetamido)butanoic acid (4.8 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.6 g). The oily residue obtained is purified by chromatography on silica (0.063-0.2 mm; 150 g) contained in a column 3 cm in diameter [eluant: methylene chloride/methanol (99:1 by volume)] and collecting 30-cc fractions. Fractions 76 to 175 are concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. and, after crystallization in ethyl ether, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-(N-methylacetamido)butyrate (3.1 g), m.p. 170° C., is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 4-(N-methylacetamido)butanoic acid | 4.8 g | CN(C(C)=O)CCCC(=O)O | C7H13NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-(N-methylacetamido)butyrate | 3.1 g | CN(C(C)=O)CCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C23H21ClN4O4
